US07687643B2
Preparation CLXXIV: 7-Amino-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one
N-(4,4-Dimethyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl)-acetamide (1.50 g, 6.46 mmol) in 10 ml of HCl (concentrated, 37%) and 30 ml of EtOH was stirred at 75° C. for 4 h. The solvents were removed under reduced pressure. The residue was dissolved in EtOAc/H2O, neutralized with NaHCO3, washed with brine, dried with Na2SO4, filtered, and condensed to give the titled compound as an off-white solid.

reactant | N-(4,4-Dimethyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl)-acetamide | 6.46 mmol, 1.50 g | CC1(CC(NC2=CC(=CC=C12)NC(C)=O)=O)C | C13H16N2O2
solvent | HCl | 10 ml | Cl | ClH
solvent | EtOH | 30 ml | CCO | C2H6O
product | 7-Amino-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one | NC1=CC=C2C(CC(NC2=C1)=O)(C)C | C11H14N2O
